data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][NH2+:21]C(C)(C(C(C(=O)C)C(=O)OCC)C(=O)OCC)[O-].[NH3:10].CO>>[H:20][NH3+:10].CCOC(=O)C(C(C(=O)OCC)C(C)([NH2:21])[O-])C(=O)C.CO 10=20;20,21=21
C[CH:20]=[OH+:21].C[NH:10]C>>C[CH:20]([NH+:10](C)C)[OH:21] 10=20;20,21=21
[H:20][CH2:21][C:22](=[N+:23]1CCCC1C(=O)[O-])CCC2(C(=O)CCC2=O)C.C1CC([NH:10]C1)C(=O)[O-].O>>[H:20][NH+:10]1CCCC1C(=O)[O-].CC1(C(=O)CCC1=O)CC[C:22](=[CH2:21])[N:23]2CCCC2C(=O)[O-].O 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]C1([N-]C(=NC(=N1)Cl)Cl)Cl.[OH2:10]>>[H:20][OH2+:10].C1(=NC(=NC([N-]1)([OH:21])Cl)Cl)Cl 10=20;20,21=21
[H:20][OH+:21]C(C1=CC=CC=C1)C(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)C(C1=CC=CC=C1)[OH:21] 10=20;20,21=21
[H:20][OH+:21]C(O)OC(=O)C.[OH2:10]>>CC(=O)OC(O)[OH:21].[H:20][OH2+:10] 10=20;20,21=21
[H:20][O+:21]=C(C)C(C1=CC=CC=C1)C2=CC=CC=C2.[OH2:10].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC(=[O:21])C(C1=CC=CC=C1)C2=CC=CC=C2.C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10=20;20,21=21
CCCCCC(C[C:10]#[C:11]CC(C)C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCCCC1C[C:10](=[C+:11]CC(C)C)[CH2:20][N:21](C1)CC2=CC=CC=C2 10,11=10,20;20,21=21
CCOCC(=O)NC1=C(C2=C(C=CC=C2)[N-:10][C:20]1([NH3+])[Cl:21])NCC(C)(C)O>>CCOCC(=O)NC1=C(C2=C(C=CC=C2)[N:10]=[C:20]1[NH3+])NCC(C)(C)O.[Cl-:21] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[N-:10]C.[AlH3:20]>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[N:10](C)[AlH3-:20] 10=20,
[H:20][F:21].[CH2:10]=[CH:11]CCCC1=CC=CC=C1>>[H:20][CH2:10][CH+:11]CCCC1=CC=CC=C1.[F-:21] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.COC(=O)C1CCC(=[O:10])CC1>>[H:20][O+:10]=C1CCC(CC1)C(=O)OC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][P+:21](Cl)(Cl)Cl.[OH2:10]>>[H:20][OH2+:10].[P:21](Cl)(Cl)Cl 10=20;20,21=21
C1CC[C:11](=[CH:10]C1)N2CCCC2.[Cl:20][Cl:21]>>C1CC[C+:11]([CH:10](C1)[Cl:20])N2CCCC2.[Cl-:21] 10,11=10,20;20,21=21
CC1CCC[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CC1CCC[CH:20]2C1OC(=[O+:10]2)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC(=C[CH+:22]1)Cl)C(C2=CC=C(C=C2)Cl)C(Cl)(Cl)Cl.[OH2:10].OS(=O)(=O)[O-]>>C1=CC(=CC=C1C([C:21]2=[CH:22]C=C(C=C2)Cl)C(Cl)(Cl)Cl)Cl.[H:20][OH2+:10].OS(=O)(=O)[O-] 10=20;20,21=21,22
C[C:20](=[O:21])Cl.[OH-:10]>>C[C:20]([OH:10])([O-:21])Cl 10=20;20,21=21
[H:20][C:21](CCCC(C(=O)OCC)Br)(C#N)[C:22](=[O:23])OCC.[C-:10]#N>>[H:20][C:10]#N.CCOC(=O)C(CCC[C:21](=[C:22]([O-:23])OCC)C#N)Br 10=20;22,23=23;20,21=21,22
CN[CH+:20][O:10]C>>CN[CH:20]=[O+:10]C 10=20,
[H:20][CH:21]1CC([O+:23]=[C:22]1C2=CC=C(C=C2)C(C)(C)C)(C3=CC=C(C=C3)C(C)(C)C)O[B-](F)(F)F.CC[O:10]CC>>[H:20][O+:10](CC)CC.[B-](OC1(C[CH:21]=[C:22]([O:23]1)C2=CC=C(C=C2)C(C)(C)C)C3=CC=C(C=C3)C(C)(C)C)(F)(F)F 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CCSC[CH:10]=[C:11]([O-:12])OC>>[H:20][CH:10](CSCC)[C:11](=[O:12])OC.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][NH+:21](C1=C(N=C2C=CC=CC2=C1NCC(C)(C)O)Cl)C(COCC)([O-])Cl.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CCOCC([NH:21]C1=C(N=C2C=CC=CC2=C1NCC(C)(C)O)Cl)([O-])Cl 10=20;20,21=21
[H:20][O:21]C.CC1(OC(C(O1)C(C[O-:10])OCC2=CC=CC=C2)C(CO)OCC3=CC=CC=C3)C.B.[Na+]>>[H:20][O:10]CC(C1C(OC(O1)(C)C)C(CO)OCC2=CC=CC=C2)OCC3=CC=CC=C3.C[O-:21].B.[Na+] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CC1C(CCC(C1(C(=O)OCC)C(=O)OCC)C)(C#N)C(=O)OCC.CO.C[O:10][Na]>>[H:20][O+:10](C)[Na].CCOC(=O)C1(CCC(C(C1C[C:22](=[CH2:21])[O-:23])(C(=O)OCC)C(=O)OCC)C)C#N.CO 10=20;20,21=21,22;22,23=23
CC=[C+:20]C1=CC=CC=C1.[OH2:10]>>CC=[C:20](C1=CC=CC=C1)[OH2+:10] 10=20,
CC(=O)OC(=O)CC[C:20](=[O:21])Cl.C[NH2:10]>>CC(=O)OC(=O)CC[C:20]([NH2+:10]C)([O-:21])Cl 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1=CC=C(C=C1)C(CC(=[O:10])O)[NH3+].CCCO.OS(=O)(=O)[O-]>>[H:20][O+:10]=C(CC(C1=CC=CC=C1)[NH3+])O.OS(=O)(=O)[O-:21].CCCO.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1([CH:22]=[N+:23](CC2C1CC(C23COC(=O)N3)OCOC)C)C(=O)C(F)(F)F.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C[N:23]1CC2C(CC(C23COC(=O)N3)OCOC)[C:21](=[CH:22]1)C(=O)C(F)(F)F 10=20;22,23=23;20,21=21,22
[H:20][C:21](C)(C)[C+:22]1CCCC1.[OH2:10]>>[H:20][OH2+:10].C[C:21](=[C:22]1CCCC1)C 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.C#CCC1=C(C=CC=C1)[NH:12][N:11]=[O:10]>>[H:20][O:10][N:11]=[NH+:12]C1=C(C=CC=C1)CC#C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C1CC(C1)[CH2:20][Br:21].C1CC2(C3CC4=CC=C(C5=C4C2(CC[NH:10]3)C(C1=O)O5)O)O>>C1CC(C1)[CH2:20][NH+:10]2CCC34C5C(=O)CCC3(C2CC6=CC=C(C(=C46)O5)O)O.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(=CC(=O)OC)CC1=CC=CC=C1.[OH-:10]>>[H:20][OH:10].COC(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
C=CCO[C:20](CC1=CC=CC=C1)([O-:10])[Cl:21].CC[NH+](CC)CC>>C=CCO[C:20](=[O:10])CC1=CC=CC=C1.[Cl-:21].CC[NH+](CC)CC 10=20;20,21=21
[H:20][CH:21]1CCC[C:22]1=[N+:23]2CCOCC2.[OH-:10].C1COCCN1.C1=CC=CC=C1>>[H:20][OH:10].C1C[CH:21]=[C:22](C1)[N:23]2CCOCC2.C1COCCN1.C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
CCC(C)C(C(=O)NCC(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NCC(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][C:21]#N.C(N)([NH2:10])O.N>>[H:20][NH2+:10]C(N)O.[C-:21]#N.N 10=20;20,21=21
